US05559111
c) 4-(3-Benzyloxypropyloxy)-3-(3-methoxypropyloxy)-bromobenzene
A mixture of 4 g of 4-bromo-2-(3-methoxypropyloxy)-phenol, 2.3 g of potassium carbonate, 3.8 g of benzyl (3-bromopropyl) ether, a spatula tip of NaI and 15 ml of acetonitrile is stirred under reflux for 30 hours. The reaction mixture is filtered and the filtrate is concentrated by evaporation. The residue is partitioned between ethyl acetate and water. The organic phases are combined, dried over magnesium sulfate and concentrated by evaporation, and the residue is purified by means of FC (hexane/ethyl acetate=95:5), yielding the title compound: Rf (hexane/ethyl acetate=9:1)=0.15; HPLC Rt =20.66 minutes.

reactant | 4-bromo-2-(3-methoxypropyloxy)-phenol | 4 g | BrC1=CC(=C(C=C1)O)OCCCOC | C10H13BrO3
reactant | potassium carbonate | 2.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl (3-bromopropyl) ether | 3.8 g | BrCCCOCC1=CC=CC=C1 | C10H13BrO
reactant | NaI | [Na+].[I-]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 4-(3-Benzyloxypropyloxy)-3-(3-methoxypropyloxy)-bromobenzene | C(C1=CC=CC=C1)OCCCOC1=C(C=C(C=C1)Br)OCCCOC | C20H25BrO4
